US06114532
4-[(5-(N-(2-methyl-propyloxycarbonylmethyl)-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-methoxycarbonyl-benzamidine
Prepared analogously to Example 97 from 4-[(5-(N-(2-methylpropyloxycarbonylmethyl)-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride and methyl chloroformate in acetone/water.

reactant | 4-[(5-(N-(2-methylpropyloxycarbonylmethyl)-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-hydrochloride | Cl.CC(COC(=O)CN(C1=CC2=C(N(C(=N2)CC2=CC=C(C(=N)N)C=C2)C)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12)C
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | acetone water | CC(=O)C.O
product | 4-[(5-(N-(2-methyl-propyloxycarbonylmethyl)-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-methoxycarbonyl-benzamidine | CC(COC(=O)CN(C1=CC2=C(N(C(=N2)CC2=CC=C(C(=NC(=O)OC)N)C=C2)C)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12)C | C33H34N6O6S
